* LTSpiceIV Netlist Generated from AP210 file: Clapp.stp
C1 N002 N003 750p
C2 N004 0 50p
C3 N003 0 750p
D2 0 N002 1N4148
J1 N001 N002 N003 2N5484
L1 N002 N004 100µ
L4 N003 0 1m Rser=100 
V1 N001 0 10
.model 1N4148 D(Cjo=4p Iave=200m Is=2.52n M=0.4 N=1.752 Rs=0.568 Vpk=75 tt=20n )
.model 2N5484 NJF(Alpha=0.0001 Beta=3m Betatce=-0.5 Cgd=4p Cgs=4p Is=0.25p Kf=0 Lambda=10m Rd=10 Rs=10 Vk=80 Vto=-1.5 Vtotc=-3m )
* Appended dot commands extracted from input file.
.tran 250µ startup
.options method=trap
.backanno
.end
