* LTSpiceIV Netlist Generated from AP210 file: butter.stp
C1 N001 0 0.3396
C10 OUT2 0 0.3903
C11 N009 0 0.4714
C12 N010 N009 0.8103
C13 N011 0 1.526
C14 N012 N011 0.8103
C15 OUT3 0 0.4714
C16 N013 0 0.6177
C17 N014 N013 0.6177
C18 N015 0 2
C19 N016 N015 0.6177
C2 N002 N001 1.125
C20 OUT4 0 0.6177
C3 N003 0 1.099
C4 N004 N003 1.125
C5 OUT1 0 0.3396
C6 N005 0 0.3903
C7 N006 N005 0.9785
C8 N007 0 1.263
C9 N008 N007 0.9785
I1 0 N001 1 AC=1 
I2 0 N005 1 AC=1 
I3 0 N009 1 AC=1 
I4 0 N013 1 AC=1 
L1 N001 0 2.945
L10 OUT2 0 2.562
L11 N009 0 2.1213
L12 N010 N011 1.234
L13 N011 0 0.6553
L14 N012 OUT3 1.234
L15 OUT3 0 2.1213
L16 N013 0 1.617
L17 N014 N015 1.617
L18 N015 0 0.5
L19 N016 OUT4 1.617
L2 N002 N003 0.889
L20 OUT4 0 1.617
L3 N003 0 0.9099
L4 N004 OUT1 0.889
L5 OUT1 0 2.945
L6 N005 0 2.562
L7 N006 N007 1.022
L8 N007 0 0.7918
L9 N008 OUT2 1.022
R1 N001 0 1
R2 OUT1 0 1
R3 N005 0 1
R4 OUT2 0 1
R5 N009 0 1
R6 OUT3 0 1
R7 N013 0 1
R8 OUT4 0 1
* Appended dot commands extracted from input file.
.ac oct 50 .01 3
.backanno
.end
