* Netlist from Clapp.asc
* JAS - removed space 'Vk= 80' -> 'Vk=80' (parser implementation does not permit spaces)
J1 N001 N002 N003 2N5484
V1 N001 0 10.
L4 N003 0 1mH Rser=100
C1 N002 N003 750p
C2 N004 0 50p
C3 N003 0 750p
L1 N002 N004 100µ
D2 0 N002 1N4148
.model 1N4148 D(Is=2.52n Rs=.568 N=1.752 Cjo=4p M=.4 tt=20n Iave=200m Vpk=75 mfg=OnSemi type=silicon)
.model 2N5484 NJF(Is=.25p Alpha=1e-4 Vk=80 Vto=-1.5 Vtotc=-3m Beta=3.0m Lambda=10m Betatce=-.5 Rd=10 Rs=10 Cgs=4p Cgd=4p Kf=3e-17 mfg=Siliconix)
.model NJF NJF
.model PJF PJF
.tran 250µ startup
.options method=trap
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
