* LTSpiceIV Netlist Generated from AP210 file: divider_with_subckt.stp
C2 N004 0 50p
C3 N003 0 750p
V1 a 0 10
X1 a b 0 divider
X2 N003 b N004 divider
.subckt divider x1 x2 x3
r1 x1 x2 2k
r2 x2 x3 2k
.ends
* Appended dot commands extracted from input file.
.tran 3µ
.end
