*
* This is the circuit definition

X1 a b 0 divider
V1 a 0 10
C2 N004 0 50p
C3 N003 0 750p
X2 N003 b N004 divider

* this is the definition of the subcircuit
.subckt divider x1 x2 x3
r1 x1 x2 2k
r2 x2 x3 2k
.ends
.tran 3µ 
.end

