* LTSpiceIV Netlist Generated from AP210 file: MC1648.stp
C1 AGC 0 0.1µ
C2 Bias 0 0.1µ
C3 Tank Bias 10p
D1 AGC N007 DD
D2 N011 0 DD
D3 Bias N011 DD
L1 Tank Bias 1µ
Q1 Vcc1 N001 OUT 0 NP
Q11 N004 Bias N008 0 NP
Q2 N001 N004 N005 0 NP
Q3 Vcc1 N003 N005 0 NP
Q4 N003 Tank N010 0 NP
Q5 AGC N010 N012 0 NP
Q6 Vcc1 Tank N006 0 NP
Q7 Tank Bias N006 0 NP
Q8 N009 N007 0 0 NP
Q9 Vcc1 N002 N004 0 NP
R1 OUT 0 300
R10 N002 N004 2k
R11 Vcc1 N002 2k
R12 Vcc1 Bias 1k
R13 Vcc1 AGC 25k
R2 Vcc1 N001 400
R3 N005 0 1k
R4 Vcc1 N003 2k
R5 N010 0 1k
R6 N012 0 600
R7 N007 0 25k
R8 N006 N009 200
R9 N008 0 1k
V1 Vcc1 0 5
.model DD D(Cjo=5p Rs=20 )
.model NP NPN(Bf=150 Cjc=3p Cje=3p Rb=10 )
* Appended dot commands extracted from input file.
.tran 0 1.9m 0 1u startup
.backanno
.end
